US07667041B2
Synthesis of 2-chloro-1-(4-[1,3]dioxolan-2-yl-2-methoxyphenyl)-1H-imidazole
To a THF (50 mL) solution of 1-(4-[1,3]dioxolan-2-yl-2-methoxyphenyl)-1H-imidazole (3.85 g), n-butyllithium (1.6M hexane solution, 12 mL) was added dropwise under nitrogen atmosphere at −78° C., and the reaction solution was agitated for 30 minutes. THF (10 mL) solution of hexachloroethane (6.1 g) was added to the reaction solution and the reaction solution was agitated at room temperature for 1 hour after agitating for 30 minutes at −78° C. Water and ethyl acetate were added to the reaction mixture, and the organic layer was partitioned. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate system), and 3.19 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | 1-(4-[1,3]dioxolan-2-yl-2-methoxyphenyl)-1H-imidazole | 3.85 g | O1C(OCC1)C1=CC(=C(C=C1)N1C=NC=C1)OC | C13H14N2O3
reactant | n-butyllithium | 1.6M, 12 mL | C(CCC)[Li]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | hexachloroethane | 6.1 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-chloro-1-(4-[1,3]dioxolan-2-yl-2-methoxyphenyl)-1H-imidazole | 3.19 g | ClC=1N(C=CN1)C1=C(C=C(C=C1)C1OCCO1)OC | C13H13ClN2O3
